US05015655
(1-azabicyclo-[2,2,2]-octan-3-yl)-ethanone O-methyloxime hydrochloride
2.3 g of 3-acetyl quinuclidine hydrochloride (Helv. Chim. Acta (1963) 229, 2658) and 1.02 g of O-methylhydroxylamine hydrochloride are heated for 20 minutes to reflux in 30 cm3 of methanol. The solvent is evaporated and the residue is chromatographed on silica (eluant: chloroform-methanol 7-3). After crystallization from ethanol and from ether, 1.8 g of expected product is obtained. M.p.=186°-188° C.

reactant | 3-acetyl quinuclidine hydrochloride | 2.3 g | Cl.C(C)(=O)C1CN2CCC1CC2
reactant | O-methylhydroxylamine hydrochloride | 1.02 g | Cl.CON
solvent | methanol | 30 cm3 | CO | CH4O
product | (1-azabicyclo-[2,2,2]-octan-3-yl)-ethanone O-methyloxime hydrochloride | 1.8 g | Cl.CON=C(C)C1CN2CCC1CC2 | InChI=1S/C10H18N2O.ClH/c1-8(11-13-2)10-7-12-5-3-9(10)4-6-12;/h9-10H,3-7H2,1-2H3;1H
